US09376424B2
2-(4(S)-Phenyloxazolidin-2-on-3-yl)propanoic acid.
To a solution of methyl 2-(4(S)-phenyloxazolidin-2-on-3-yl)propanoate (1 g, 4.01 mmol) in 35 mL of MeOH was added, at 0° C., 14.3 mL (12.04 mmol) of a 0.84 M solution of LiOH in water. The reaction mixture was then stirred for 3 h. at ambient temperature. Upon complete hydrolysis of the azetidinone, the MeOH was removed by evaporation, the crude residue dissolved in CH2Cl2 and treated with saturated aqueous NaCl. The resulting organic layer was dried (MgSO4) and evaporated to afford the title compound (racemic mixture) as a white solid (0.906 g, 96%); 1H NMR (CDCl3) δ 1.13/1.57 (d/d, J=7.5 Hz, 3H), 3.75/4.50 (q/q, J=7.5 Hz, 1H), 4.10-4.16 (m, 1H), 4.62-4.72 (m, 1H), 4.92-5.03 (m, 1H), 7.32-7.43 (m, 5H).

reactant | methyl 2-(4(S)-phenyloxazolidin-2-on-3-yl)propanoate | 4.01 mmol, 1 g | C1(=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(C(=O)OC)C | C13H15NO4
reactant | LiOH | [Li+].[OH-]
reactant | azetidinone | N1C(CC1)=O | C3H5NO
solvent | MeOH | 35 mL | CO | CH4O
solvent | water | O | H2O
product | 2-(4(S)-Phenyloxazolidin-2-on-3-yl)propanoic acid | 0.906 g, 96% | C1(=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(C(=O)O)C | C12H13NO4
